US07238813B2
3-Nitro-6-(4-acetamidophenoxy)pyridine-2-ylamine
To a solution of 2-amino-6-chloro-3-nitropyridine (2.77 g, 16.0 mmol) in DMF (55 mL) was added 4-acetylaminophenol (2.67 g, 17.5 mmol) followed by K2CO3 (3.3 g, 5.0 mmol) and stirred at room temperature for 2 hrs. The solvent was removed by evaporation. To the residue, water was added to form a precipitate. The solid was collected by filtration, washed with water and ethyl acetate then dried under reduced pressure to give the title compound (4.32 g, 94%): MS m/e 289 (M+1).

reactant | 2-amino-6-chloro-3-nitropyridine | 16.0 mmol, 2.77 g | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | 4-acetylaminophenol | 17.5 mmol, 2.67 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | K2CO3 | 5.0 mmol, 3.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 55 mL | CN(C)C=O | C3H7NO
product | 3-Nitro-6-(4-acetamidophenoxy)pyridine-2-ylamine | 4.32 g, 94% | [N+](=O)([O-])C=1C(=NC(=CC1)OC1=CC=C(C=C1)NC(C)=O)N | C13H12N4O4
